US05095018
A mixture of ethyl 2-(2-fluorophenyl)acetimidate hydrochloride (34.4 g, 0.158 mol) and absolute ethanol (50 mL) was stirred at ambient temperature for 18 hours. Diethyl ether (50 mL) was added to the mixture, and the solids were removed by suction filtration. The solids were rinsed with ether (2×25 mL), and the combined filtrates were spin evaporated in vacuo to give 34.7 g (86%) of 1-fluoro-2-(2,2,2,-triethoxyethyl)benzene as a semisolid; nmr (DMSO-d6): δ6.7-7.7 (complex multiplets, 4H, ArH), 3.48 (q, 6H, OCH2), 3.03 (s, 2H, CH2), 1.03 (t, 9H, CH3).

reactant | ethyl 2-(2-fluorophenyl)acetimidate hydrochloride | 0.158 mol, 34.4 g | Cl.FC1=C(C=CC=C1)CC(OCC)=N
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | Diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-fluoro-2-(2,2,2,-triethoxyethyl)benzene | 34.7 g, 86% | FC1=C(C=CC=C1)CC(OCC)(OCC)OCC | C14H21FO3
